US05464811
Ethyl N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)carbamate (1.45 g, 4.97 mmol) prepared by the process described in Reference Example 1 and a solution of potassium carbonate (1.03 g, 7.46 mmol) in ethanol (50 ml) were stirred for 1 hour while refluxing, and then cyclopentyl bromide (1.11 g, 7.46 mmol) was added thereto, followed by further stirring for 2 hours. After completion of the reaction, the mixture was poured into 1N hydrochloric acid (50 ml), and extracted with ethyl acetate (50 ml×3 times). The organic layer was dried, and concentrated under reduced pressure to obtain ethyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate as grey white crystals (1.41 g, 4.69 mmol, 94.4% yield). The spectral data and the like are as shown in Reference Example 1.

reactant | Ethyl N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)carbamate | 4.97 mmol, 1.45 g | FC1=C(C=C(C(=C1)Cl)OC(=O)OC)NC(OCC)=O | C11H11ClFNO5
reactant | potassium carbonate | 7.46 mmol, 1.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 7.46 mmol, 1.11 g | C1(CCCC1)Br | C5H9Br
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate | 4.69 mmol, 1.41 g, 94.4% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(OCC)=O | C14H17ClFNO3
